US03956366
PREPARATION OF 1-CHLORO-3-(1-METHYLCYCLOHEXYL)UREA ##SPC1##
To a rapidly stirred slurry of 7.5 g (.048m) of N-(1-methylcyclohexyl)urea in 75 ml. water at 15°C was added 3.36g. (.048 m) of chlorine at 0.5 g/minute. The reaction mixture was stirred an additional 1/2 hour at 15°C and filtered. The filter cake was washed with cold water until free of acid and air dried overnight. The white solid weighed 6.0 g (66% yield) and contained 18.9% active chlorine (calculated value for 1-chloro-3-(1-methylcyclohexyl)urea = 18.5% active chlorine).

reactant | N-(1-methylcyclohexyl)urea | 7.5 g | CC1(CCCCC1)NC(=O)N | C8H16N2O
reactant | chlorine | ClCl | Cl2
solvent | water | O | H2O
product | 1-CHLORO-3-(1-METHYLCYCLOHEXYL)UREA | 66% yield | ClNC(=O)NC1(CCCCC1)C | C8H15ClN2O
